US07714126B2
With a procedure similar to example 1 above, 2-(2-methoxy-phenyl)-4-trifluoromethyl-oxazole-5-carboxylic acid {2-[(2-methoxy-ethyl)-methyl-amino]-pyrimidin-5-yl}-amide was prepared from 2-(2-methoxy-phenyl)-4-trifluoromethyl-oxazole-5-carboxylic acid and N-(2-methoxy-ethyl)-N-methyl-pyrimidine-2,5-diamine. LCMS calcd for C20H20F3N5O4 (m/e) 451, obsd 452 (M+H).

reactant | 2-(2-methoxy-phenyl)-4-trifluoromethyl-oxazole-5-carboxylic acid | COC1=C(C=CC=C1)C=1OC(=C(N1)C(F)(F)F)C(=O)O | C12H8F3NO4
reactant | N-(2-methoxy-ethyl)-N-methyl-pyrimidine-2,5-diamine | COCCN(C1=NC=C(C=N1)N)C | C8H14N4O
product | 2-(2-methoxy-phenyl)-4-trifluoromethyl-oxazole-5-carboxylic acid {2-[(2-methoxy-ethyl)-methyl-amino]-pyrimidin-5-yl}-amide | COCCN(C1=NC=C(C=N1)NC(=O)C1=C(N=C(O1)C1=C(C=CC=C1)OC)C(F)(F)F)C | C20H20F3N5O4
